2120-12-08 09:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2120-12-8**] 03:03 AM
 NON-INVASIVE VENTILATION - STOP [**2120-12-8**] 05:36 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2120-12-8**] 05:39 AM
   Other medications:
   PPI, Lopressor, calcium, vit d, clonidine 0.1 daily, asa, pred 5 daily,
   desmopressin, levothyroxine, SQH; others per [**Month (only) **] (reviewed on rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-8**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.1
C (95.2
   Tcurrent: 35.1
C (95.2
   HR: 64 (64 - 80) bpm
   BP: 119/70(81) {119/70(81) - 154/96(106)} mmHg
   RR: 20 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
             Total In:
             48 mL
   PO:
             TF:
   IVF:
   48 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,900 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,852 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 453 (312 - 453) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.24/92.[**Numeric Identifier 1176**]/84.[**Numeric Identifier 1625**]/36/8
   Ve: 8.5 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   119 K/uL
   96 mg/dL
   1.4 mg/dL
   36 mEq/L
   4.7 mEq/L
   24 mg/dL
   98 mEq/L
   141 mEq/L
   29.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2120-12-8**]  03:37 AM
                             [**2120-12-8**]  03:46 AM
   WBC
   7.0
   Hct
   28
   29.2
   Plt
   119
   Cr
   1.4
   TCO2
   42
   Glucose
   96
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB / Troponin-T:42//,
   Lactic Acid:0.9 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR with marked cardiomegaly and some upper zone
   redistribution
   ECG: unchanged c/w prior except for a PAC
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE AND CHRONIC
   n        decrease Vt to 8 cc/kg PBW
   n        set RR to goal pH 7.35
 7.40
   n        try to move more toward bolus sedation
   n        there is no evidence of infection at present, so we are
   holding antibitoics
   n        try to convert over to propofol for sedation since prior
   history suggests she often improves in one to two days
 CONGESTIVE HEART FAILURE, DIASTOLIC -- ACUTE AND CHRONIC
   n        diurese with goal negative 1500 or more today
   n        keep rate controlled
   n        review prior records regarding dry weight
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 anemia secondary to blood loss
   n        no ongoing bleeding.
   n        Get further history from daughter when available
   n        Essentially unremarkable colonoscopy (except in internal
   hemorrhoids and one polyp) in [**2119**]
 thrombocytopenia
   n        has been in this range previously
   n        follow for now
 OBESITY-HYPOVENTILATION SYNDROME and OBSTRUCTIVE SLEEP APNEA
   n        see Dr. [**First Name (STitle) **]
s note regarding adjustments to PAP therapy
   (after extubation)
 RENAL DYSFUNCTION
   n        appears to be slowly rising over weeks to months
   n        avoid nephrotoxins
   n        follow for now
   n        may need further evaluation if does no improve
 PANHYPOPIT
   n        double base steroids
   n        continue other usual meds
   ICU Care
   Nutrition:
   Comments: begin TF
   Glycemic Control:  Comments: follow FSBS
   Lines:
   18 Gauge - [**2120-12-8**] 02:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2120-12-09 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Emailed PCP for pt's dry weight
   - Changed pt over to propofol
   - Increaesed Steroid to Prednisone 40mg Daily
   - Tm 100.4 BCx, UCx, Sputum Cx Sent
   - I/O goal of -2L
   - A-Line placed early this AM
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-12-8**] 07:29 PM
   Heparin Sodium (Prophylaxis) - [**2120-12-8**] 07:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-9**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 69 (64 - 74) bpm
   BP: 121/69(89) {121/69(89) - 142/87(108)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
             Total In:
                                                                    869 mL
                                                                    244 mL
   PO:
             TF:
   IVF:
                                                                    609 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  4,063 mL
                                                                    320 mL
   Urine:
                                                                  3,063 mL
                                                                    270 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,194 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 170
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.41/64/133/36/13
   Ve: 7.2 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   113 K/uL
   8.2 g/dL
   89 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.8 mEq/L
   21 mg/dL
   99 mEq/L
   142 mEq/L
   27.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2120-12-8**]  03:37 AM
                             [**2120-12-8**]  03:46 AM
                             [**2120-12-8**]  04:23 PM
                             [**2120-12-8**]  10:50 PM
                            [**2120-12-9**]  12:03 AM
                            [**2120-12-9**]  03:41 AM
                            [**2120-12-9**]  05:15 AM
   WBC
   7.0
   11.9
   Hct
   28
   29.2
   28.2
   25.1
   27.0
   Plt
   119
   113
   Cr
   1.4
   1.1
   TropT
   0.01
   TCO2
   42
   40
   42
   Glucose
   96
   89
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE AND CHRONIC
   n        decrease Vt to 8 cc/kg PBW
   n        set RR to goal pH 7.35
 7.40
   n        try to move more toward bolus sedation
   n        there is no evidence of infection at present, so we are
   holding antibitoics
   n        try to convert over to propofol for sedation since prior
   history suggests she often improves in one to two days
 CONGESTIVE HEART FAILURE, DIASTOLIC -- ACUTE AND CHRONIC
   n        diurese with goal negative 1500 or more today
   n        keep rate controlled
   n        review prior records regarding dry weight
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 anemia secondary to blood loss
   n        no ongoing bleeding.
   n        Get further history from daughter when available
   n        Essentially unremarkable colonoscopy (except in internal
   hemorrhoids and one polyp) in [**2119**]
 thrombocytopenia
   n        has been in this range previously
   n        follow for now
 OBESITY-HYPOVENTILATION SYNDROME and OBSTRUCTIVE SLEEP APNEA
   n        see Dr. [**First Name (STitle) **]
s note regarding adjustments to PAP therapy
   (after extubation)
 RENAL DYSFUNCTION
   n        appears to be slowly rising over weeks to months
   n        avoid nephrotoxins
   n        follow for now
   n        may need further evaluation if does no improve
 PANHYPOPIT
   n        double base steroids
   n        continue other usual meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-12-8**] 02:50 AM
   20 Gauge - [**2120-12-8**] 07:00 AM
   Arterial Line - [**2120-12-9**] 04:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-12-09 10:02:00 Physician Attending Progress Note
Chief Complaint: Hypercapnic respiratory failure, GI Bleed, diastolic
   CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated yesterday AM because of persistent hypercapnia and
   somnolence. Maintained on assist control. FIO2 0.4 with PEEP 5.
   Per her PCP, [**Name10 (NameIs) 294**] BMI=45. Sedation changed to Propofol.
   Temp 100.4; blood cultures sent.
   24 Hour Events:
 BLOOD CULTURED - At [**2120-12-9**] 12:16 AM
 SPUTUM CULTURE - At [**2120-12-9**] 12:16 AM
 ARTERIAL LINE - START [**2120-12-9**] 04:49 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-12-8**] 07:29 PM
   Heparin Sodium (Prophylaxis) - [**2120-12-9**] 09:06 AM
   Other medications:
   Lopressor, tums, vit D, clonidine, ASA, DDAVP, thyroxine, prednisone,
   heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Flowsheet Data as of  [**2120-12-9**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 68 (64 - 74) bpm
   BP: 113/65(82) {113/65(82) - 142/87(108)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
             Total In:
                                                                    869 mL
                                                                    394 mL
   PO:
             TF:
   IVF:
                                                                    609 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  4,063 mL
                                                                    540 mL
   Urine:
                                                                  3,063 mL
                                                                    490 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,194 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 380) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 170
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/64/133/36/13
   Ve: 6.9 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: Diffuse soft
   rhonchi, Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   113 K/uL
   89 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.8 mEq/L
   21 mg/dL
   99 mEq/L
   142 mEq/L
   27.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2120-12-8**]  03:37 AM
                             [**2120-12-8**]  03:46 AM
                             [**2120-12-8**]  04:23 PM
                             [**2120-12-8**]  10:50 PM
                            [**2120-12-9**]  12:03 AM
                            [**2120-12-9**]  03:41 AM
                            [**2120-12-9**]  05:15 AM
   WBC
   7.0
   11.9
   Hct
   28
   29.2
   28.2
   25.1
   27.0
   Plt
   119
   113
   Cr
   1.4
   1.1
   TropT
   0.01
   TCO2
   42
   40
   42
   Glucose
   96
   89
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: haziness at both bases with obscuring of hemi-diaphragm
   bilaterally. Possible bilateral effusions; cannot exclude infiltrate.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   panhypopituitarism with partial empty sella
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   creatinine gradually increasing over past several months (0.9-->1.4)
 RESPIRATORY FAILURE, CHRONIC
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   also apparent obesity-hypoventilation sydnrome
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   1) Respiratory Failure (acute on chronic): Patient intubated because of
   progressive hypercapnia. Last ABG shows PaCO2 probably below [**Doctor Last Name 294**].
   Patient diuresed well yesterday. Now on PSV. Will continue to aim for
   negative fluid balance today. Probably needs PaCO2=70 to optimize
   ability to come off ventilator. Will need to remove extra vent tubing
   when doing spontaneous breathing trial.
   2) CHF: continue diuresis as above.
   3) Panhypopit: continue stress dose steroids and DDAVP.
   4) GI bleed: Hct stable
   5) Anemia: not at threshold for transfusion now.
   6) Pneumonia: patient with purulent sputum and mixed flora on sputum
   gram stain. CXR difficult to interpret. Cannot exclude infiltrate.
   Begin antibiotics.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2120-12-8**] 02:50 AM
   20 Gauge - [**2120-12-8**] 07:00 AM
   Arterial Line - [**2120-12-9**] 04:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2120-12-10 06:02:00 Physician Resident Progress Note
Chief Complaint:
   - Started Levofloxacin to cover for (4+) gram neg diplococci in sputum
   and GRN in urine (there were also 2+ GPC in sputum from [**12-9**])
   - Pt stable on PS for most of day. Put back on a/c around 8p [**3-2**]
   agitation. Plan is to put back to PS during night then SBT in am with
   possible early am extubation
   - Changed prednisone to 25 IV Hydrocort Q 12 hrs
   - Neg approx 2L for the day (at target) with just 20 IV Lasix given in
   am
   - Unable to get in touch with PCP [**Last Name (NamePattern4) **]: dry wt
   - Extubated without complication
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-9**] 12:31 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2120-12-9**] 11:02 AM
   Heparin Sodium (Prophylaxis) - [**2120-12-9**] 08:19 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Breathing comfortable, thirsty. No pain.
   Flowsheet Data as of  [**2120-12-10**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 69 (54 - 78) bpm
   BP: 129/73(94) {106/59(75) - 148/91(113)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
             Total In:
                                                                    956 mL
                                                                    183 mL
   PO:
             TF:
   IVF:
                                                                    746 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    110 mL
   Urine:
                                                                  2,875 mL
                                                                    110 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,969 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (320 - 450) mL
   Vt (Spontaneous): 157 (46 - 380) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/66/99.[**Numeric Identifier 253**]/39/13
   Post-Extubation: 7.35/75/95
   Ve: 4.7 L/min
   PaO2 / FiO2: 250
   Physical Exam:
   General Appearance:, More responsive, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: S1 S2 No MRG
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli,: increased spontaneous
   movement, Normal Tone:
   Labs / Radiology
   114 K/uL
   7.9 g/dL
   80 mg/dL
   1.1 mg/dL
   39 mEq/L
   3.3 mEq/L
   15 mg/dL
   100 mEq/L
   148 mEq/L
   26.5 %
   13.1 K/uL
                             [**2120-12-8**]  10:50 PM
                            [**2120-12-9**]  12:03 AM
                            [**2120-12-9**]  03:41 AM
                            [**2120-12-9**]  05:15 AM
                            [**2120-12-9**]  10:47 AM
                            [**2120-12-9**]  11:01 AM
                            [**2120-12-9**]  03:20 PM
                            [**2120-12-9**]  05:04 PM
                            [**2120-12-9**]  05:21 PM
                            [**2120-12-10**]  04:02 AM
   WBC
   11.9
   13.1
   Hct
   25.1
   27.0
   27.0
   26.5
   Plt
   113
   114
   Cr
   1.1
   1.1
   1.1
   TCO2
   40
   42
   41
   43
   43
   Glucose
   89
   100
   80
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:0.7 mmol/L, Ca++:9.1 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   54yoF intubated for  acute on chronic hypercarbic respiratory failure,
   ddx secondary to new infiltrate vs acute on chronic dCHF flare.
   RESPIRATORY FAILURE, ACUTE AND CHRONIC
   n        Now extubated
   n        Post Extubation PCO2 75, compensated Acid-Base status,
   probably still slightly higher than where she lives.
   n        pH goal of  7.33
 7.37
   n        Wean Propofol
   n        New positive Sputum gram stain with [**Last Name (LF) 6456**], [**First Name3 (LF) 178**] empirically
   started Levaquin and await cultures data
   n        OOB today
   PNA vs BRONCHIOTRACHEITIS
   Sputum gram stain with [**First Name3 (LF) 6456**], culture now showing Moraxella
   - Cont Levaquin (2 of 7)
   UTI? 10-100K Klebsiella. Colonization vs Infection.
   - quinolone sensitive so will treat while treating lung infection with
   Levaquin.
 CONGESTIVE HEART FAILURE, DIASTOLIC -- ACUTE AND CHRONIC. -2L
   overnight
   n        BP stable
   n        f/u dry weight
   n        Net goal of -1L  to 1.5L
   HYPERNATREMIA: Na 148 today.
   - allow pt to drink now that she is extubated
   - taper down steroids
 OBESITY-HYPOVENTILATION SYNDROME and OBSTRUCTIVE SLEEP APNEA
   n        Find pt
s home BiPap/CPAP settings
 PANHYPOPIT
   n        Taper to Prednisone 20mg
   n        Cont DDAVP
   ICU Care
   Nutrition: Advance as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-12-8**] 02:50 AM
   20 Gauge - [**2120-12-8**] 07:00 AM
   Arterial Line - [**2120-12-9**] 04:49 AM
   Prophylaxis:
   DVT:  SQH
   Stress ulcer: PPi
   Code status: Full
   Disposition: [**Hospital Unit Name 44**] with potential floor tomorrow

2120-12-10 12:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient diuresed well yesterday and through the evening.
   Extubated this AM. Oxygenation acceptable on mask O2.
   Post extubation ABG looks good with PaCO2=75 and compensated pH.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-9**] 12:31 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-12-10**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2120-12-10**] 08:28 AM
   Other medications:
   ASA, DDAVP, synthroid, tums, hydrocortisone, clonidine, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-10**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 82 (54 - 82) bpm
   BP: 160/90(116) {106/57(75) - 160/93(118)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
             Total In:
                                                                    956 mL
                                                                    369 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    746 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                  1,400 mL
   Urine:
                                                                  2,875 mL
                                                                  1,400 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,969 mL
                                                                 -1,031 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 157 (46 - 157) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 50
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.35/75/95.[**Numeric Identifier 607**]/39/11
   Ve: 4.7 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic), II/VI
   harsh systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Expiratory, Diminished: , No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person,place, time, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   114 K/uL
   80 mg/dL
   1.1 mg/dL
   39 mEq/L
   3.3 mEq/L
   15 mg/dL
   100 mEq/L
   148 mEq/L
   26.5 %
   13.1 K/uL
        [image002.jpg]
                            [**2120-12-9**]  12:03 AM
                            [**2120-12-9**]  03:41 AM
                            [**2120-12-9**]  05:15 AM
                            [**2120-12-9**]  10:47 AM
                            [**2120-12-9**]  11:01 AM
                            [**2120-12-9**]  03:20 PM
                            [**2120-12-9**]  05:04 PM
                            [**2120-12-9**]  05:21 PM
                            [**2120-12-10**]  04:02 AM
                            [**2120-12-10**]  08:18 AM
   WBC
   11.9
   13.1
   Hct
   25.1
   27.0
   27.0
   26.5
   Plt
   113
   114
   Cr
   1.1
   1.1
   1.1
   TCO2
   42
   41
   43
   43
   43
   Glucose
   89
   100
   80
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:0.7 mmol/L, Ca++:9.1 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   panhypopituitarism with partial empty sella
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   creatinine gradually increasing over past several months (0.9-->1.4)
 RESPIRATORY FAILURE, CHRONIC
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   also apparent obesity-hypoventilation sydnrome
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Doing well post extubation. Comfortable. Good O2 saturation. Mental
   status normal. Patient should be ambulated to a chair. Keep fluids even
   to slightly negative. Should have BiPAP tonight per her home settings.
   Serum Na up today. Continue DDAVP. Reduce steroids.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2120-12-8**] 02:50 AM
   20 Gauge - [**2120-12-8**] 07:00 AM
   Arterial Line - [**2120-12-9**] 04:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2120-12-11 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued Levofloxacin for Klebsilla in urine and moraxella in sputum
   and changed levofloxacin to q24 dosing
   - Patient -2 L with 1 dose of 40mg IV lasix
   - OOB to chair
   - Patient placed on BiPAP overnight but desated with mask on so placed
   on NC with good sats
   - Restarted all home BP meds for BPs in 170s
   - Changed to prednisone 20mg qday
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-10**] 12:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-12-10**] 04:38 PM
   Pantoprazole (Protonix) - [**2120-12-10**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2120-12-10**] 08:10 PM
   Other medications:
   Changes to medical and family history:No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Felt well after standing up.  Finding it easier to
   breath. No pain. No fevers, chills.
   Flowsheet Data as of  [**2120-12-11**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 72 (58 - 82) bpm
   BP: 133/75(96) {112/56(73) - 161/95(120)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
             Total In:
                                                                  1,541 mL
                                                                     62 mL
   PO:
                                                                  1,060 mL
             TF:
   IVF:
                                                                    481 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                    160 mL
   Urine:
                                                                  3,710 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,169 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/71/84.[**Numeric Identifier 1625**]/42/13
   PaO2 / FiO2: 2,100
   Physical Exam:
   General Appearance:, Alert and Oriented, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1 S2 No MRG
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender, Obese
   Skin:  Warm, Erythematous rash on lower back
   Neurologic: Responds to: Noxious stimuli,: increased spontaneous
   movement, Normal Tone:
   Labs / Radiology
   132 K/uL
   8.0 g/dL
   79 mg/dL
   1.0 mg/dL
   42 mEq/L
   3.2 mEq/L
   10 mg/dL
   100 mEq/L
   148 mEq/L
   27.3 %
   12.6 K/uL
        [image002.jpg]
                            [**2120-12-9**]  11:01 AM
                            [**2120-12-9**]  03:20 PM
                            [**2120-12-9**]  05:04 PM
                            [**2120-12-9**]  05:21 PM
                            [**2120-12-10**]  04:02 AM
                            [**2120-12-10**]  08:18 AM
                            [**2120-12-10**]  03:19 PM
                            [**2120-12-10**]  05:41 PM
                            [**2120-12-11**]  12:34 AM
                            [**2120-12-11**]  04:20 AM
   WBC
   13.1
   12.6
   Hct
   26.5
   27.3
   Plt
   114
   132
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   41
   43
   43
   43
   45
   Glucose
   100
   80
   83
   81
   79
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   54yoF intubated for  acute on chronic hypercarbic respiratory failure,
   ddx secondary to new infiltrate vs acute on chronic dCHF flare.
   RESPIRATORY FAILURE, ACUTE AND CHRONIC
   n        Pt now on 2L NC, breathing more comfortably
   n        OOB today
   PNA vs BRONCHIOTRACHEITIS
     * Moraxella on culture, however new appearing rash suggestive of drug
       rash. Will change to Bactrim for coverage. Moraxella is azithro
       resistant.  Will give for 4 more days worth of treatment.
   Positive Urine Culture: 10-100K Klebsiella. Colonization vs Infection.
     * Will switch to Bactrim.
 CONGESTIVE HEART FAILURE, DIASTOLIC -- ACUTE AND CHRONIC. -2L
   overnight
   n        BP stable
   n        f/u dry weight
   n        New goal of -2L again today
   HYPERNATREMIA: Na 148 today. Getting D5W overnight in addition to PO
   fluids.
     * allowing pt to drink
          D5W at 200 for 1L
          taper down steroids
 OBESITY-HYPOVENTILATION SYNDROME and OBSTRUCTIVE SLEEP APNEA
   n        Attempt home BiPAP settings again today
   n        If pt does not tolerate studies, will get sleep consult for
   new BiPap settings.
 PANHYPOPIT
   n        Taper to Prednisone from 20mg to 10mg
   n        Cont DDAVP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-8**] 07:00 AM
   Arterial Line - [**2120-12-9**] 04:49 AM
   Prophylaxis:
   DVT:  SQH
   Stress ulcer: PPi
   Code status: Full
   Disposition: [**Hospital Unit Name 44**] with potential floor today or tomorrow depending on
   BiPAP adjustment

2120-12-11 11:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diuresed yesterday. Serum Na elevated. Free water repletion started.
   Started on BiPAP last night; patient had desaturations, difficulty
   getting in synch with the system.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-10**] 12:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-12-10**] 04:38 PM
   Heparin Sodium (Prophylaxis) - [**2120-12-11**] 08:21 AM
   Pantoprazole (Protonix) - [**2120-12-11**] 10:21 AM
   Other medications:
   Vit D, ASA, vasopressin, synthroid, metoprolol, prednisone, valsartan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-11**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 67 (58 - 80) bpm
   BP: 134/82(100) {112/56(73) - 171/162(166)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,541 mL
                                                                    934 mL
   PO:
                                                                  1,060 mL
                                                                    800 mL
   TF:
   IVF:
                                                                    481 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                    160 mL
   Urine:
                                                                  3,710 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,169 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/71/84.[**Numeric Identifier 1625**]/42/13
   PaO2 / FiO2: 2,100
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, oral mucosa moist
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI mid systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: erythematous , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   132 K/uL
   79 mg/dL
   1.0 mg/dL
   42 mEq/L
   3.2 mEq/L
   10 mg/dL
   100 mEq/L
   148 mEq/L
   27.3 %
   12.6 K/uL
        [image002.jpg]
                            [**2120-12-9**]  11:01 AM
                            [**2120-12-9**]  03:20 PM
                            [**2120-12-9**]  05:04 PM
                            [**2120-12-9**]  05:21 PM
                            [**2120-12-10**]  04:02 AM
                            [**2120-12-10**]  08:18 AM
                            [**2120-12-10**]  03:19 PM
                            [**2120-12-10**]  05:41 PM
                            [**2120-12-11**]  12:34 AM
                            [**2120-12-11**]  04:20 AM
   WBC
   13.1
   12.6
   Hct
   26.5
   27.3
   Plt
   114
   132
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   41
   43
   43
   43
   45
   Glucose
   100
   80
   83
   81
   79
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   panhypopituitarism with partial empty sella
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   creatinine gradually increasing over past several months (0.9-->1.4)
 RESPIRATORY FAILURE, CHRONIC
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   also apparent obesity-hypoventilation sydnrome
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   CONGESTIVE HEART FAIULRE - DIASTOLIC, CHRONIC
   Doing well off the ventilator. Not clear why she had trouble with BiPAP
   last night. Will consult with her Dr [**First Name (STitle) **], her sleep physician.
   [**Name10 (NameIs) **] to maintain negative fluid balance each day.  Needs free water
   replacement (present deficit approximately 3L). [**Month (only) 60**] need additional
   desmopressin if we have trouble normalizing the serum Na.
   Hct stable. No evidence of ongoing bleeding. No need for transfusion
   today.
   Platelet account improved.
   Patien has rash, suggestive of drug eruption. Will switch antibiotics.
   Increase ambulation; patient walking in room today.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-8**] 07:00 AM
   Arterial Line - [**2120-12-9**] 04:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not indicated
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor after BiPAP adjusted.
   Total time spent: 30 minutes

2120-12-12 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Goal to be -2L of volume, although pt calculated to be 3L water
   deplete, pt incontinent of urine overnight following Lasix 40IV
   - Seen by sleep. CPAP attempted overnight. Sat of 88-93% on 10 CPAP
   with 6L.
   - Changed to Bactrim for ? levoflox reaction and resistance to
   azithromycin
   - prednisone decreased to 10mg
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-10**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-12-11**] 10:21 AM
   Heparin Sodium (Prophylaxis) - [**2120-12-11**] 09:00 PM
   Furosemide (Lasix) - [**2120-12-11**] 09:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Doing okay but coughing is bothering her. No sputum production
   Flowsheet Data as of  [**2120-12-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 55 (50 - 84) bpm
   BP: 101/57(70) {95/52(24) - 156/97(119)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  2,411 mL
                  PO:
                                                                  1,350 mL
                  TF:
   IVF:
                                                                  1,061 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                      0 mL
   Urine:
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,941 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: 7.40/71/75/39/14
   Physical Examination
   GENERAL - short, obese woman, NAD .
   HEENT - PERRL, Strabismus.
   LUNGS
 decreased BS throughout with occasional wheezes.
   HEART - RRR, 3/6 SEM heard across the precordium
   ABDOMEN - soft, NT, obese, BS+
   EXTREMITIES
 improved edema.
   Labs / Radiology
   173 K/uL
   8.2 g/dL
   101 mg/dL
   1.2 mg/dL
   39 mEq/L
   3.8 mEq/L
   7 mg/dL
   99 mEq/L
   147 mEq/L
   27.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2120-12-10**]  03:19 PM
                            [**2120-12-10**]  05:41 PM
                            [**2120-12-11**]  12:34 AM
                            [**2120-12-11**]  04:20 AM
                            [**2120-12-11**]  11:23 AM
                            [**2120-12-11**]  11:38 AM
                            [**2120-12-11**]  09:49 PM
                            [**2120-12-11**]  10:27 PM
                            [**2120-12-12**]  04:48 AM
                            [**2120-12-12**]  05:42 AM
   WBC
   12.6
   11.6
   Hct
   27.3
   27.4
   Plt
   132
   173
   Cr
   1.0
   1.0
   1.0
   1.1
   1.2
   TCO2
   45
   46
   42
   46
   Glucose
   83
   81
   79
   147
   131
   101
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   panhypopituitarism with partial empty sella
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   creatinine gradually increasing over past several months (0.9-->1.4)
 RESPIRATORY FAILURE, CHRONIC
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   also apparent obesity-hypoventilation sydnrome
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   54yoF intubated for  acute on chronic hypercarbic respiratory failure,
   ddx secondary to new infiltrate vs acute on chronic dCHF flare.
   RESPIRATORY FAILURE, ACUTE AND CHRONIC
   -        Pt now on 2L NC, breathing more comfortably
   -       OOB today
   PNA vs BRONCHIOTRACHEITIS
   Moraxella on culture, however new appearing rash suggestive of drug
   rash. Will change to Bactrim for coverage. Moraxella is azithro
   resistant.  Will give for 4 more days worth of treatment.
   Positive Urine Culture: 10-100K Klebsiella. Colonization vs Infection.
   Continue Bactrim.
 CONGESTIVE HEART FAILURE, DIASTOLIC -- ACUTE AND CHRONIC. Could not
   asses output as patient incontinent
   -        BP stable
   -        Switch to home dose of lasix
   HYPERNATREMIA: Na 147 today. Got D5W overnight in addition to PO
   fluids.
   allowing pt to drink
   -          D5W at 200 for 1L
   -          taper down steroids
   -          f/u PM sodium and consider increasing desmopressin if
   remains elevated
 OBESITY-HYPOVENTILATION SYNDROME and OBSTRUCTIVE SLEEP APNEA
   -        Sleep study
 did well on CPAP 10 with 6L O2.
 PANHYPOPIT
   -        Taper to Prednisone from 20mg to 10mg
   -        Cont desmopressin and uptitrate if Na continues to be elevated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-8**] 07:00 AM
   Arterial Line - [**2120-12-9**] 04:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:Full Code
   Disposition: Call out to floor

2120-12-12 12:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, OSA, CRF, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on CPAP last night.
   Continues to do well off of ventilator.
   Fluid balance difficult to determine yesterday because of incontinence.
   Hct stable.
   Hypernatremia improved.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-10**] 12:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-12-11**] 09:49 PM
   Heparin Sodium (Prophylaxis) - [**2120-12-12**] 07:46 AM
   Other medications:
   CaCarbonate, vit D, ASA, DDAVP, thyroxine, heparin sc, Klonapin,
   valsartin, bactrim, protonix, prednisone, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-12**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 65 (47 - 84) bpm
   BP: 99/62(75) {95/52(24) - 156/97(119)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  2,411 mL
                  PO:
                                                                  1,350 mL
                  TF:
   IVF:
                                                                  1,061 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    550 mL
   Urine:
                                                                    470 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,941 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 91%
   ABG: 7.40/71/75/39/14
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Moist mucus membranes
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Diffuse, [**Name (NI) 6481**], expiratory wheezes, No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   173 K/uL
   101 mg/dL
   1.2 mg/dL
   39 mEq/L
   3.8 mEq/L
   7 mg/dL
   99 mEq/L
   147 mEq/L
   27.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2120-12-10**]  03:19 PM
                            [**2120-12-10**]  05:41 PM
                            [**2120-12-11**]  12:34 AM
                            [**2120-12-11**]  04:20 AM
                            [**2120-12-11**]  11:23 AM
                            [**2120-12-11**]  11:38 AM
                            [**2120-12-11**]  09:49 PM
                            [**2120-12-11**]  10:27 PM
                            [**2120-12-12**]  04:48 AM
                            [**2120-12-12**]  05:42 AM
   WBC
   12.6
   11.6
   Hct
   27.3
   27.4
   Plt
   132
   173
   Cr
   1.0
   1.0
   1.0
   1.1
   1.2
   TCO2
   45
   46
   42
   46
   Glucose
   83
   81
   79
   147
   131
   101
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:42/3/0.01, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   panhypopituitarism with partial empty sella
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   creatinine gradually increasing over past several months (0.9-->1.4)
 RESPIRATORY FAILURE, CHRONIC
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   also apparent obesity-hypoventilation sydnrome
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Doing well off the ventilator. Tolerated CPAP better last night.
   Continue negative fluid balance each day. CPAP at night. Ambulate to
   chair today.
   Hct stable. No indication for transfusion now.
   Serum Na still mildly elevated. She may need increased dose of DDAVP.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-8**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes